US07829715B2
In 100 ml of chloroform and in the presence of 16 g of triethylamine and 0.1 g of 4-dimethylaminopyridine, 12.8 g of ethyl chloroformate was added to 10.0 g of (R)-quinuclidin-3-ol at 10° C. This was heated to 20° C., stirred for 2 hours and mixed with 50 ml of water, the thus obtained organic layer was washed with 50 ml of water, and then the organic layer was concentrated under a reduced pressure and dried in vacuo to obtain 15.49 g of a oily substance. By purifying this oily substance by a silica gel column chromatography, 7.24 g of ethyl (R)-quinuclidin-3-yl carbonate was obtained (1H-NMR (DMSO-d6, tetramethylsilane internal standard): δ 1.21 (3H, t, J=7.2 Hz), 1.26-1.37 (1H, m), 1.42-1.53 (1H, m), 1.55-1.70 (2H, m), 1.91-1.98 (1H, m), 2.48-2.76 (5H, m), 3.06-3.17 (1H, m), 4.11 (2H, q, J=7.2 Hz), 4.56-4.64 (1H, m), mass spectrum: m/z=200 [M+H]+ (FAB)).

reactant | triethylamine | 16 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 12.8 g | ClC(=O)OCC | C3H5ClO2
reactant | (R)-quinuclidin-3-ol | 10.0 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | water | 50 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl (R)-quinuclidin-3-yl carbonate | 7.24 g | C(OCC)(O[C@H]1CN2CCC1CC2)=O | C10H17NO3
